US08242175B2
(3S,5R)-4-Acetyl-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (450 mg, 1.75 mmol) was dissolved in DCM (10 ml) and acidified with HCl/Et2O. The mixture was stirred at room temperature for two days. The resulting solid was filtered to give 190 mg of 1-((2R,6S)-2,6-dimethyl-piperazin-1-yl)ethanone hydrochloride. The mother liquors were treated with HCl/Et2O for 4 h and the resulting solid was filtered to give additional 43 mg of the title compound as hydrochloric salt.

reactant | (3S,5R)-4-Acetyl-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 1.75 mmol, 450 mg | C(C)(C)(C)OC(=O)N1C[C@@H](N([C@@H](C1)C)C(C)=O)C | C13H24N2O3
reactant | HCl Et2O | Cl.CCOCC
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-((2R,6S)-2,6-dimethyl-piperazin-1-yl)ethanone hydrochloride | 190 mg | Cl.C[C@H]1N([C@H](CNC1)C)C(C)=O | InChI=1S/C8H16N2O.ClH/c1-6-4-9-5-7(2)10(6)8(3)11;/h6-7,9H,4-5H2,1-3H3;1H/t6-,7+;
